Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"I think this is a mistake, I shouldn't have been sent up here."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ yo F ___ year student at ___, PPHx of self-reported anxiety, panic attacks,
depression, no past psychiatric hospitalizations, no SAs/SIBs,
who presented to the ___ ED by campus police on a ___ 
by
her therapist at ___ for worsening mood and
intrusive thoughts of suicide in the setting of feeling
overwhelmed with everything.

Per Dr. ___ ___ ED Initial Psychiatry Consult
note:
"She
endorses that for the past month, she has had increased
difficulty sleeping, both in terms of falling asleep and waking
up frequently due to feeling anxious and then becoming more
anxious that she was unable to sleep. She does not note any
particular trigger for her symptoms, but does endorse that 
during
the past month (with acute exacerbation in the past week), she
has had worsening mood, decreased ability to concentrate,
decreased energy, decreased motivation and intrusive thoughts of
suicide where she feels overwhelmed and just wants everything to
end. She denies any manic symptoms during the past month, but
does endorse feeling significant anxiety with ruminations and
panic attacks. Of note, she had been seeing a therapist near her
home in ___, who recently retired and had seen her
new therapist for only one session. Currently has no providers 
in
the ___ area, but following up with ___
services, who sent her to the ___ ED on a ___ for SI 
for
psychiatric evaluation given her endorsement of suicidal 
thoughts
and feeling like she cannot be safe.

Collateral: 
___: Therapist at ___ at ___: 
___ (emergency line at ___ for on-call
clinician, available ___
Student at ___; endorsing SI, came in today for urgent
care for behavioral; first time endorsed SI to counseling
services, previously seen for urgent care at school, but 
referred
to outpatient therapy at those prior times
currently not sleeping, mood lower, concentration terrible, h/o
TBI in high school, for past couple of months: difficulty
spelling words, difficulty getting assignments done; anxiety
levels high; mom was minimizing, boyfriend not talking to her;
started to think death was better than living; denied being able
to keep herself safe."

In the ED, the patient remained in good behavioral control and
did not require physical or chemical restraints.

On admission interview on ___, patient reports that she
had gone to her school's counseling office due to stress and
breaking down mentally. She spoke with a therapist, whom she had
seen many times in the last couple of weeks. 

Has been experiencing depressed mood for ___ years, worsening 
since
1 month ago. Have not had time to enjoy activities due to
overloaded workload, but states she would still enjoy activities
such as going out to eat with friends and going to bars if she
had the time. Endorses decreased appetite for 1 week, does not
notice that she has not eaten at times until 22:00 at night, but
denies weight loss. Has been waking up 4 times a night on a 
daily
basis, along with having trouble with sleep induction on some
days (has been experiencing these sleep disturbances since
___. Energy level has been "up and down", at times
enabling her to go to spin classes and workout, but other times
feeling mentally/physically exhausted (since ___, when
returning to school). Has been feeling intrusive
worthlessness/guilt about her performance at school, which she
knows is not logical as she has a 3.9 GPA and has been getting
straight As this semester; however, constantly ruminates over
feeling like she will not get into any law school, which again
she knows is not realistic as she most likely will based on her
current performance. Denies suicidal plan, but states that she
has been feeling intermittent bursts of "not wanting to be 
alive"
throughout the day since the past week. Denies that she actually
thinks about death or wants to die, but feels "more like
overwhelmed from stress".

States that she has "bursts" of hours throughout the day (every
couple of days) during which she feels very anxious, speaks very
fast, experiences racing thoughts, pressured speech, and
sometimes trouble speaking properly as "my mouth can't catch up
with my mind". During these periods, she feels "everything is
great, I say let's talk about this, let's do this". Also becomes
very productive during these periods, and states that she
multitasks, jumping back and forth between writing ___ 
papers
and doing math homework problems, but is able to finish
everything.

Endorses experiencing a panic attack last experienced over 
___, during which she was at a grocery store, suddenly
experienced chest pain, diaphoresis, and an immense feeling of
anxiousness which caused her to leave the grocery store, with 
the
panic attack lasting 30 minutes. States she has experienced 
these
episodes about twice a month since having a TBI at age ___ during
ice hockey. Endorses obsessions/ruminations over law school, is
unable to stop thinking about not being able to get into law
school, to the point which she finds these feelings/thoughts
intrusive.

Currently describes her mood as "anxious". Denies SI/HI.
Initially states that she would like help during this
hospitalization to have her anxiety be "less up and down, to be
more stable, and to get my sleep fixed", but then while
discussing the legal status, breaks down into tears and states
"This is a mistake, no one told me that I'd be admitted, I
shouldn't be here, I just need to go home" and refuses to sign
CV.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Per Dr. ___ ___ ED Initial Psychiatry Consult
note, reviewed with patient, and updated as appropriate]
 -Past diagnoses: Anxiety, depression (not formerlly diagnosed)
 -Hospitalizations: Denies
 -Psychiatrist: None
 -Therapist: Prior therapist in ___ (recently retired and
had one appointment with a new therapist), also following up 
with
counseling services biweekly at ___
 -Medication and ECT trials: Antidepressant or anti-anxiety 
after
TBI; but threw up and never took it again
 -Self-injurious behaviors: Denies
 -Suicide attempts: Denies
 -Harm to others: Denies
 -Trauma: Denies

PAST MEDICAL HISTORY:
[Per Dr. ___ ___ ED Initial Psychiatry Consult
note, reviewed with patient, and updated as appropriate]
 -PCP: ___, ___, @ ___)
 -Hx of head trauma: Head trauma at age ___ while playing ice
hockey (post-concussive syndrome)
 -Hx of seizure: Febrile seizure as an infant age ___
 -PMHx: Asthma (exercise-induced), migraines (since head trauma)
 
Social History:
SUBSTANCE USE HISTORY:
 -EtOH: Goes out once a week 4 drinks, denies history of
withdrawal/DTs/seizures
 -Tobacco: Denies
 -Illicits: Denies

FORENSIC HISTORY:
[Per Dr. ___ ___ ED Initial Psychiatry Consult
note, reviewed with patient, and updated as appropriate]
 -Arrests: Denies
 -Convictions and jail terms: Denies
 -Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 -Fam Dx: Maternal grandmother with anxiety, alcoholism in
father's side of the family, maternal uncle had ?depression
 -Fam Hospitalizations: Unknown
 -Fam Treatment Hx/Med Trials: Unknown
 -Fam Hx Suicide: Maternal uncle completed suicide (shot self
with a gun)
 
Physical Exam:
Vital Signs:
 -T 99.1, BP 132/87, HR 104, RR (not recorded), SpO2 97%RA

GENERAL
 -HEENT: 
     -Normocephalic, atraumatic
     -Moist mucous membranes, oropharynx clear, supple neck
     -No scleral icterus
 -Cardiovascular: 
     -Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
     -Distal pulses ___ throughout
 -Pulmonary: 
     -No increased work of breathing
     -Lungs clear to auscultation bilaterally
     -No wheezes/rhonchi/rales
 -Abdominal: 
     -Non-distended, bowel sounds normoactive
     -No tenderness to palpation in all quadrants
     -No guarding, no rebound tenderness
 -Extremities: 
     -Warm and well-perfused
     -No edema of the limbs
 -Skin: 
     -No rashes or lesions noted

NEUROLOGICAL
 -Cranial Nerves:
     -I: Olfaction not tested
     -II: PERRL 3 to 2 mm, both directly and consentually; brisk
bilaterally, VFF to confrontation
     -III, IV, VI: EOMI without nystagmus
     -V: Facial sensation intact to light touch in all
distributions
     -VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
     -VIII: Hearing intact to finger rub bilaterally
     -IX, X: Palate elevates symmetrically
     -XI: ___ strength in trapezii and SCM bilaterally
     -XII: Tongue protrudes in midline
 -Motor: 
     -Normal bulk and tone bilaterally
     -No abnormal movements, no tremor
     -Strength ___ throughout
 -Sensory: 
     -No deficits to fine touch throughout
 -DTRs: 
     -2 and symmetrical throughout
 -Coordination: 
     -Normal on finger to nose test, no intention tremor noted
 -Gait: 
     -Good initiation
     -Narrow-based, normal stride and arm swing
     -Able to walk in tandem without difficulty
     -Romberg absent

COGNITION 
 -Wakefulness/alertness: 
     -Awake and alert
 -Attention: 
     -MOYb with 0 errors
     -EARTH backwwards no errors
     -WORLD backwards no errors
 -Orientation: 
     -Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): 
     -Not tested
 -Memory: 
     -___ registration
     -___ spontaneous recall after 5 min
     -Long-term grossly intact
 -Fund of knowledge: 
     -Consistent with education
     -Intact to last 3 presidents
 -Calculations: 
     -$1.75 = 7 quarters
 -Abstraction: 
     -"Don't judge a book by its cover" = "Don't judge something
off of what it looks like"
     -Orange/apple: fuits
     -Bicycle/train: wheels
 -Visuospatial: 
     -Not assessed
 -Language: 
     -Native ___ speaker, no paraphasic errors, appropriate
to conversation

MENTAL STATUS
 -Appearance: 
     -___ yo Caucasian female, dirty blonde hair tied up into a
bun, wearing a hospital gown, appears well nourished and
hydrated, anxious but not in acute distress (although near end 
of
exam/interview, is tearful and upset)
 -Behavior: 
     -Sitting in chair, appropriate eye contact, no psychomotor
agitation or retardation
 -Attitude: 
     -Cooperative, engaged, friendly
 -Mood: 
     -"Anxious"
 -Affect: 
     -Mood-congruent, anxious, reactive (smiles and softly 
laughs
when talking about hobbies or how she knows she is aware
logically that she is performing well enough to get into law
school but isn't sure why she feels so anxious about not getting
in), full range, appropriate to situation, somewhat labile
although appropriately so when becoming upset about feeling like
she does not need to be on the unit and becomes difficult to
console (sobbing, continues to ask "I don't think I need to be
here")
 -Speech: 
     -Normal rate, volume, and prosody
 -Thought process: 
     -Linear, coherent, goal-oriented, no loose associations
 -Thought Content:
     -Safety: Denies SI/HI   
     -Delusions: No evidence of paranoia, etc. 
     -Obsessions/Compulsions: No evidence based on current
encounter
     -Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
 -Insight: 
     -Fair
 -Judgment: 
     -Fair
 
Pertinent Results:
___ 02:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:11PM   NEUTS-55.4 ___ MONOS-7.6 EOS-1.7 
BASOS-0.6 IM ___ AbsNeut-4.55 AbsLymp-2.82 AbsMono-0.62 
AbsEos-0.14 AbsBaso-0.05
___ 04:11PM   PLT COUNT-290
___ 04:11PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:11PM   TSH-1.5
___ 04:11PM   TSH-1.5
___ 04:11PM   VIT B12-572 FOLATE->20
___ 04:11PM   GLUCOSE-102* UREA N-14 CREAT-0.8 SODIUM-145 
POTASSIUM-4.4 CHLORIDE-108 TOTAL CO2-23 ANION GAP-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a CV and so was 
admitted on a S12 on ___, and was felt to be safe for discharge 
on ___ prior to its expiration.  She was placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder, recurrent
On admission, the patient endorsed having experienced intrusive 
thoughts of SI in the context of feeling overwhelmed at school, 
particularly due to participating in multiple extracurricular 
activities which created many obligations as well as studying 
for the LSAT. She endorsed depressed mood, ruminative thoughts, 
as well as  neurovegetative symptoms including decreased 
appetite (sometimes forgetting to eat all day until night time) 
and disturbances in sleep (waking up 4 times throughout the 
night with ruminative thoughts or anxiety) though denied 
anhedonia. She also endorsed anxiety. While on the inpatient 
unit, the patient attending group psychotherapy, and by the day 
of discharge she stated that she was no longer experiencing SI 
and had not been since the time of admission. She was future 
oriented, and felt that she wanted to take a week off from 
school to be with family in ___ and to re-assess her course 
load and participation in extracurricular activities, and was in 
agreement with seeing her current therapist at home in ___ 
___ while home as well as being referred to psychotherapy 
and potentially a psychopharmacologist in ___ for when she 
returned. During her time here, a recommendation to start an 
SSRI was made, which the patient declined, stating that she 
preferred to discuss it with her therapist first. On the day of 
discharge, a family meeting was held with the patient's mother, 
who was also in agreement with this plan and was actively 
seeking psychiatric providers and other resources for the 
patient both in the ___ area and at home in ___ as well. 


3.  MEDICAL
#) Asthma - patient was continued on her home inhaler PRN, which 
she did not utilize
#) Migraines - patient was offered PRN Tylenol for migraines

4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient was visible in the milieu and interactive with peers, 
and attended these groups that focused on teaching patients 
various coping skills as well as activities groups.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
A family meeting was held with the patient's mother ___ 
___ on the day of discharge, and was in agreement with the 
plan and felt safe taking the patient home to outpatient follow 
up. 
During her stay, the patient also received visits from two 
friends at school and was in contact with her boyfriend, all of 
whom were supportive of her receiving treatment and the plan 
moving forwards. 

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself others based upon intrusive 
thoughts of suicide in the context of feeling overwhelmed.  Her 
static risk factors noted at that time included history of head 
injury, Caucasian race, age, and chronic medical illness 
(asthma, migraines) as well as modifiable risk factors including 
SI and psychosocial stressors (extracurricular activities, 
studying for LSAT, school). These modifiable factors were 
addressed during this hospitalization through the provision of 
individual and group psychotherapy aimed at improving coping 
skills, as well as through giving patient time and space to 
re-assess her school and extracurricular schedule and determine 
a plan moving forwards.  Finally, the patient is being 
discharged with many protective risk factors,  including no SI, 
no suicidal intent/plan, help-seeking behavior, very supportive 
family, friends and boyfriend, future-orientation, linear 
thought process, good reality testing, and good insight.  
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others and is appropriate for discharge to outpatient 
follow up. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MedroxyPROGESTERone Acetate Dose is Unknown  IM Q3MONTHS 
2. Albuterol Inhaler Dose is Unknown  IH PRN SOB 
3. Excedrin Migraine (aspirin-acetaminophen-caffeine) unknown  
oral PRN migraines 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH PRN SOB  
2.  MedroxyPROGESTERone Acetate IM Q3MONTHS  
3.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral PRN migraines  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent

 
Discharge Condition:
Vitals: T 99.2  BP  103 / 70  HR 71 RR 18 O2 98
Gait within normal limits
Appearance: Casual attire, well groomed
Motor: no abnormal movements noted
Speech: Regular rate and rhythm
Mood: 'A lot better'
Affect: euthymic, mood congruent, appropriate to situation
Thought Process: linear, goal directed
TC: Denies AH/VH, no evidence of paranoia or delusional thought 
content. Denies SI/HI, is future oriented.
 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___